US07888364B2
7.3 g of 4-(3-hydroxypropylthio)benzonitrile was reacted via Procedure R to yield 4-(3-hydroxypropylsulfonyl)benzonitrile. 1.9 g of NBS was added to a solution of 2 g of 4-(3-hydroxypropylsulfonyl)benzonitrile and 2.8 g of triphenylphosphine in 10 mL of dichloromethane at 0° C. The reaction mixture was stirred at 0˜5° C. for 1 h. The mixture was diluted with dichloromethane, washed with H2O, dried (MgSO4) and evaporated. Purified by silica gel chromatography (10-70% ethyl acetate/hexane) to afford 4-(3-bromopropylsulfonyl)benzonitrile. 300 mg of 4-(3-bromopropylsulfonyl)benzonitrile was reacted via Procedure T to give 4-(allylsulfonyl)benzoic acid. 40 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(allylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield 4-(allylsulfonyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. MS (Q1) 413.2 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 40 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(allylsulfonyl)benzoic acid | C(C=C)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C10H10O4S
product | 4-(allylsulfonyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | C(C=C)S(=O)(=O)C1=CC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C21H17ClN2O3S
